US06608048B2
N-(3-Cyano-6-methoxy-4-oxo-1,4-dihydro-7-quinolinyl)acetamide
An amount of 1 g (0.003 mol) of a mixture of ethyl (E)-3-[3-(acetylamino)-4-methoxyanilino]-2-cyano-2-propenoate and ethyl (Z)-3-[3-(acetylamino)-4-methoxyanilino]-2-cyano-2-propenoate was added to a stirring solution of biphenyl (16.3 mL, 0.10 mol) and phenyl ether (48.8 mL, 0.30 mol) at 256° C. After stirring for 2 hours at 256° C., the reaction mixture was cooled to room temperature, diluted with diethyl ether (130 mL), filtered, and evaporated to dryness to give a gray solid (0.53 g, 62% yield), mp 305-310° C.; 1H NMR (DMSO-d6) δ 12.80 (s, 1H), 9.58 (s, 1H), 8.62 (s, 1H), 8.58 (m, 1H), 7.52 (s, 1H), 3.97 (s, 3H), 2.20 (s, 3H); HRMS (EI) m/z 257.0793 (M+1).

reactant | ethyl (E)-3-[3-(acetylamino)-4-methoxyanilino]-2-cyano-2-propenoate | C(C)(=O)NC=1C=C(N/C=C(/C(=O)OCC)\C#N)C=CC1OC | C15H17N3O4
reactant | ethyl (Z)-3-[3-(acetylamino)-4-methoxyanilino]-2-cyano-2-propenoate | C(C)(=O)NC=1C=C(N\C=C(/C(=O)OCC)\C#N)C=CC1OC | C15H17N3O4
reactant | biphenyl | 0.10 mol, 16.3 mL | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | phenyl ether | 0.30 mol, 48.8 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | diethyl ether | 130 mL | C(C)OCC | C4H10O
product | N-(3-Cyano-6-methoxy-4-oxo-1,4-dihydro-7-quinolinyl)acetamide | 0.53 g, 62% yield | C(#N)C1=CNC2=CC(=C(C=C2C1=O)OC)NC(C)=O | C13H11N3O3
